US06727256B1
(4-Benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-quinazolin-4-yl)-amine
Prepared according to Procedure B from (4-benzyloxy-phenyl)-(6-bromoquinazolin-4-yl)-amine (1.5 g, 3.7 mmol) and 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan (1.9 g, 4.42 mmol) dissolved in dioxan (30 ml) and heated at reflux under nitrogen for 6 hr. The solvent was removed from the cooled reaction under vacuum, and the residual oil was triturated with iso-hexanelethyl acetate to give the product (1.07 g, 62%) as a pale yellow solid; δH [2H6]-DMSO 9.96 (1H, b, NH), 8.80 (1H, s, 5-H), 8.51 (1H, s, 2-H), 8.18 (1H, d, 7-H), 7.80 (1H, d, 8-H), 7.70 (2H, d, 2′-H, 6′-H), 7.58-7.30 (5H, m, 5×Ph-H), 7.10 (3H, m, 3′-H, 5′-H, furan 3-H), 6.78 (1H, d, furan 4-H), 6.12 (1H, s, CHO2), 5.18 (2H, s, PhCH2), 4.22-3.94 (4H, m, 2×CH2); m/z 466 (M+1)+.

reactant | (4-benzyloxy-phenyl)-(6-bromoquinazolin-4-yl)-amine | 3.7 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)Br | C21H16BrN3O
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan | 4.42 mmol, 1.9 g | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | (4-Benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-quinazolin-4-yl)-amine | 1.07 g, 62% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)C1OCCO1 | C28H23N3O4
